US09428509B2
1-(4-Amino-5-chloro-1H-pyrazol-1-yl)-2-methylpropan-2-ol
To a solution of 5-chloro-1-(2-methyl-2-((trimethylsilyl)oxy)propyl)-4-nitro-1H-pyrazole (1 equiv) in EtOH (0.13 M) was added iron powder (5.2 equiv) and ammonium chloride (14.3 equiv). The mixture was heated to reflux for 24 h and then filtered through celite. The filtrate was concentrated and dissolved in ethyl acetate. The organic solution was washed with aqueous sodium bicarbonate and brine, dried over sodium sulfate, filtered and concentrated. The product was purified by reverse phase silica gel chromatography (5-95% acetonitrile in water) to afford the title compound as an oil (90% yield). 1H NMR (400 MHz, CHLOROFORM-d1) δ ppm 7.27 (s, 1H), 4.06 (s, 1H), 3.99 (s, 2H), 2.95 (bs, 2H), 1.67 (s, 1H), 1.77 (s, 6H). MS (ESI) m/z 190.1 [M+H]+.

reactant | 5-chloro-1-(2-methyl-2-((trimethylsilyl)oxy)propyl)-4-nitro-1H-pyrazole | 1 equiv | ClC1=C(C=NN1CC(C)(O[Si](C)(C)C)C)[N+](=O)[O-] | C10H18ClN3O3Si
reactant | ammonium chloride | 14.3 equiv | [Cl-].[NH4+]
solvent | EtOH | 0.13 M | CCO | C2H6O
catalyst | iron | 5.2 equiv | [Fe] | Fe
product | 1-(4-Amino-5-chloro-1H-pyrazol-1-yl)-2-methylpropan-2-ol | 90% yield | NC=1C=NN(C1Cl)CC(C)(O)C | C7H12ClN3O
